US07683060B2
3-[1-(4-Methoxyphenyl)cyclopropyl]-7-[3-(1-methyl-1H-pyrazol-4-yl)phenyl][1,2,4]triazolo[4,3-b][1,2,4]triazine
Sodium carbonate (19.1 mg, 0.180 mmol) in water (0.10 mL) was added to a mixture of 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (18.7 mg, 0.0900 mmol), tetrakis(triphenylphosphine)palladium(0) (2.0 mg) and a 25.4 mg of a mixture of two regioisomers: 6-(3-bromophenyl)-3-[1-(4-methoxyphenyl)cyclopropyl][1,2,4]triazolo[4,3-b][1,2,4]triazine and 7-(3-bromophenyl)-3-[1-(4-methoxyphenyl)cyclopropyl][1,2,4]-triazolo[4,3-b][1,2,4]triazine in ethanol (300 μL) and toluene (300 μL). The resulting mixture was heated at 150° C. for 1 h. After cooling, the mixture was concentrated and diluted with methanol. The resulting solution was filtered, and the filtrate was subject to preparative RP-HPLC to give the two regioisomers. Analytical LCMS: (M+H)+=424.1. Isomer-I: Rt=1.732 min; Isomer-II: Rt=1.764 min.

reactant | Sodium carbonate | 0.180 mmol, 19.1 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.0900 mmol, 18.7 mg | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | 6-(3-bromophenyl)-3-[1-(4-methoxyphenyl)cyclopropyl][1,2,4]triazolo[4,3-b][1,2,4]triazine | BrC=1C=C(C=CC1)C=1C=NC=2N(N1)C(=NN2)C2(CC2)C2=CC=C(C=C2)OC | C20H16BrN5O
reactant | 7-(3-bromophenyl)-3-[1-(4-methoxyphenyl)cyclopropyl][1,2,4]-triazolo[4,3-b][1,2,4]triazine | BrC=1C=C(C=CC1)C1=NC=2N(N=C1)C(=NN2)C2(CC2)C2=CC=C(C=C2)OC | C20H16BrN5O
solvent | water | 0.10 mL | O | H2O
solvent | ethanol | 300 μL | C(C)O | C2H6O
solvent | toluene | 300 μL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 2.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-[1-(4-Methoxyphenyl)cyclopropyl]-7-[3-(1-methyl-1H-pyrazol-4-yl)phenyl][1,2,4]triazolo[4,3-b][1,2,4]triazine | COC1=CC=C(C=C1)C1(CC1)C1=NN=C2N1N=CC(=N2)C2=CC(=CC=C2)C=2C=NN(C2)C | C24H21N7O
